USRE029835
3-cyano-1-(2,3,5-tri-O-acetyl-β -D-ribofuranosyl)-1,2,4-triazole
A mixture of 3-cyano-1,2,4-triazole (9.41 g., 0.10 mol) and 1,2,3,5-tetra-O-acetyl-β -D-ribofuranose (31.8 g., 0.10 mol) was heated in an oil bath maintained at 150°. Bis(p-nitrophenyl) phosphate (100 mg.) was added with stirring and heating at 150° under diminished pressure was continued for 15 min. The residue was dissolved in chloroform, the solution was filtered and the solvent was removed. Crystallization of the residue from ether provided 28.2 g. (80%) of product with M.P. 96-97°.

reactant | 3-cyano-1,2,4-triazole | 0.10 mol, 9.41 g | C(#N)C1=NNC=N1 | C3H2N4
reactant | 1,2,3,5-tetra-O-acetyl-β -D-ribofuranose | 0.10 mol, 31.8 g | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C13H18O9
reactant | Bis(p-nitrophenyl) phosphate | 100 mg | P(=O)(OC1=CC=C(C=C1)[N+](=O)[O-])(OC1=CC=C(C=C1)[N+](=O)[O-])[O-]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-cyano-1-(2,3,5-tri-O-acetyl-β -D-ribofuranosyl)-1,2,4-triazole | C(#N)C1=NN(C=N1)[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C14H16N4O7
